US04120856
3-Fluoro-7-bromo-5-(2-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
A slurry of 0.17 g (0.007 mole) of sodium hydride in 10 ml of tetrahydrofuran was added to a solution of 1.8 g (0.005 mole) of 3-fluoro-7-bromo-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one and 10 ml methyl iodide in 100 ml tetrahydrofuran. The reaction mixture was stirred for 3 hr at 25° and then poured into 300 ml ice water. The aqueous mixture was extracted with methylene chloride, and the extracts were dried (MgSO4) and then evaporated to dryness under reduced pressure. The residue was recrystallized from heptane to give 0.91 g (50%) of cream-colored crystals: mp 127°-130° (with previous softening); 1H nmr (CDCl3) δ 3.49 ppm (s, 3H), 5.62 ppm (d, J = 57 Hz, 1H) and 6.9-7.9 ppm (m, 7H); 19F nmr (CDCl3) δ -111.9 ppm (m, 1F) and -162.4 ppm (d, J = 57 Hz, 1F).

reactant | sodium hydride | 0.007 mole, 0.17 g | [H-].[Na+]
reactant | 3-fluoro-7-bromo-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.005 mole, 1.8 g | FC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=C(C=C2)Br)=O | C15H9BrF2N2O
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-Fluoro-7-bromo-5-(2-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.91 g, 50% | FC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=C(C=C2)Br)C)=O | C16H11BrF2N2O
